US08058274B2
2-Amino-6-methylpyridine (5 g, 0.05 mol) was dissolved in tetrahydrofuran (100 mL). Ethyl bromopyruvate (9 g, 0.05 mol) was added and the mixture was refluxed for 4 hours. The reaction was cooled and the solid that formed was filtered to give 6 grams of 5-methylimidazo[1,2-a]pyridine-2-carboxylic acid ethyl ester. Rf 0.45, 2% methanol/dichloromethane; MS m/z 205 (M+H).

reactant | 2-Amino-6-methylpyridine | 0.05 mol, 5 g | NC1=NC(=CC=C1)C | C6H8N2
reactant | Ethyl bromopyruvate | 0.05 mol, 9 g | BrCC(C(=O)OCC)=O | C5H7BrO3
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 5-methylimidazo[1,2-a]pyridine-2-carboxylic acid ethyl ester | 6 grams | C(C)OC(=O)C=1N=C2N(C(=CC=C2)C)C1 | C11H12N2O2
